* Z:\mnt\design.r\spice\examples\3752-1.asc
XU1 0 MP_01 0 MP_02 N017 Vaux Vaux Vaux N030 N050 N037 N048 NC_03 N049 N041 N009 MP_04 N032 MP_05 N031 0 LT8311
R1 N024 0 5m
L1 IN N004 530µ
L2 N001 N005 190.8µ
L3 N001 OUT 15µ
C2 OUT 0 22µ x4
R2 OUT N037 100K
R3 N037 0 5.36K
R4 N027 N025 6.04K
R5 0 N027 5.76K
V1 IN 0 100
Rload OUT 0 2
C3 0 INTVcc 4.7µ
M1 N004 N023 N024 N024 IPB200N25N3
R6 N025 IN 704.98K
R7 N030 N029 3.16K
R8 N028 INTVcc 100
R9 0 N036 1.2K
XU3 N029 0 N028 N036 PC817
C5 N037 OUT 68p
L4 0 N040 785µ
C6 N039 N040 220p
R12 N041 0 560
C8 0 N033 .02µ
C9 0 N038 .047µ
R13 N042 0 52.3K
R14 N043 0 82.5K
R15 N044 0 80.1K
R16 N045 0 93.1K
R17 N046 0 53K
R18 N047 0 10K
R19 N026 N024 2K
M2 N005 N017 0 0 BSC082N10LS
C10 OUT 0 470µ
L6 IN N006 4m
M5 N006 N020 N011 N011 STP8NM60
R21 N011 0 .15
R22 N011 N019 499
L8 0 N002 62.5µ
D2 N002 INTVcc BAT46WJ
R23 0 N008 806
R24 N008 INTVcc 10K
C13 0 N018 3.3n
L7 0 N003 46µ
D3 N003 Vaux BAT46WJ
C14 Vaux 0 4.7µ
L5 0 N041 785µ
C15 0 INTVcc 10µ
R25 N034 N035 22K
R26 N035 N036 22K
C16 N028 0 1µ
C4 Vaux 0 4.7µ
R11 0 N032 100
R27 N010 N031 100
R10 N048 0 365K
C1 N049 0 .015µ
C7 N050 0 .022µ
M3 N001 N009 N010 N010 BSC082N10LS
XU2 N008 N018 N042 N035 N034 NC_06 N033 N043 N025 N027 N045 N046 N047 N044 MP_07 MP_08 N038 0 0 0 N026 N024 MP_09 N022 MP_10 INTVcc MP_11 N016 MP_12 N039 MP_13 N021 MP_14 N020 MP_15 N019 LT3752-1
M4 N007 N015 N004 N004 BSC16DN25NS3
C11 IN N007 15n
D1 N004 N015 UPSC600
C17 N015 N004 470p
C18 N014 N015 3.3n
L9 N013 0 2m
L10 N014 N004 2m
C19 N012 N013 220n
R20 N012 N021 100
R28 N010 0 2m
C12 N016 0 10µ
R29 IN N016 204K
D4 INTVcc N016 1N5817
R30 N022 N023 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
K1 L1 L2 1
.tran 10m startup uic
K2 L5 L4 1
K3 L6 L7 L8 1
K4 L9 L10 1
.lib LT3752-1.sub
.lib LT8311.sub
.lib PC817.sub
.backanno
.end
